US04510154
1.87 g of 2-(2,4-dichlorophenyl)-2-(1H-1,2,4-triazole-1-yl methyl)-4-methoxycarbonyl thiazolidine (Compound No. 24) prepared in the same manner as in Working Example 2 and 3.0 g of n-propylamine were dissolved in 20 ml of methanol and reacted at a temperature of 60° C. for 1 hour. After distilling off methanol under reduced pressure, the reaction product was purified by silica gel column chromatography using a solvent mixture of chloroform and ethyl acetate as the developer, whereby 0.8 g of 2-(2,4-dichlorophenyl)-2-(1H-1,2,4-triazole-1-yl methyl)-4-(n-propylaminocarbonyl)thiazolidine (Compound No. 46 in Table 1) was obtained.

reactant | 2-(2,4-dichlorophenyl)-2-(1H-1,2,4-triazole-1-yl methyl)-4-methoxycarbonyl thiazolidine | 1.87 g | ClC1=C(C=CC(=C1)Cl)C1(SCC(N1)C(=O)OC)CN1N=CN=C1 | C14H14Cl2N4O2S
reactant | n-propylamine | 3.0 g | C(CC)N | C3H9N
solvent | methanol | 20 ml | CO | CH4O
product | 2-(2,4-dichlorophenyl)-2-(1H-1,2,4-triazole-1-yl methyl)-4-(n-propylaminocarbonyl)thiazolidine | 0.8 g | ClC1=C(C=CC(=C1)Cl)C1(SCC(N1)C(=O)NCCC)CN1N=CN=C1 | C16H19Cl2N5OS
